### PR TITLE
[Merged by Bors] - feat: sufficient condition for a presheaf to preserve finite limits

### PR DESCRIPTION
**Pull request by TwoFX**
---

- [x] depends on: #18280 
- [x] depends on: #18282 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean [hunk 1]
```diff
@@ -0,0 +1,178 @@
...
+          HasLimit.isoOfNatIso (HasColimit.isoOfNatIso (flipFunctorToInterchange A K))
+  _ ≅ limit (K ⋙ colimit (CostructuredArrow.proj yoneda A ⋙ yoneda)) :=
+        HasLimit.isoOfNatIso
+          (colimitCompWhiskeringLeftIsoCompColimit (CostructuredArrow.proj yoneda A ⋙ yoneda) K)
+  _ ≅ limit (K ⋙ A) := HasLimit.isoOfNatIso (isoWhiskerLeft _
+        (IsColimit.coconePointUniqueUpToIso
+          (colimit.isColimit _) (Presheaf.isColimitTautologicalCocone A)))
+
+theorem isIso_post [IsFiltered (CostructuredArrow yoneda A)] : IsIso (limit.post K A) := by
+  suffices limit.post K A = (iso A K).hom from this ▸ inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:121]: I would think it would be nice to extract a lemma `iso_hom` from this proof.

Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean]: Done.

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean [hunk 2]
```diff
@@ -0,0 +1,179 @@
...
+import Mathlib.CategoryTheory.Limits.Elements
+
+/-!
+# Finite-limit-preserving presheaves
+
+In this file we prove that if `C` is a small finitely cocomplete category and `A : Cᵒᵖ ⥤ Type u`
+is a presheaf, then `CostructuredArrow yoneda A` is filtered (equivalently, the category of
+elements of `A` is cofiltered) if and only if `A` preserves finite limits.
+
+This is one of the keys steps of establishing the equivalence `Ind C ≌ (Cᵒᵖ ⥤ₗ Type u)` for a
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:16]: Here, I feel you should remind the reader that `⥤ₗ` refers to left exact functors.

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean [hunk 3]
```diff
@@ -0,0 +1,179 @@
...
+
+/-- (Implementation) This is the bifunctor we will apply "filtered colimits commute with finite
+limits" to. -/
+def functorToInterchange : J ⥤ CostructuredArrow yoneda A ⥤ Type u :=
+  K ⋙ coyoneda ⋙ (whiskeringLeft _ _ _).obj (CostructuredArrow.proj _ _)
+
+/-- (Implementation) The definition of `functorToInterchange`, up to functor associativity. -/
+@[simps!]
+def functorToInterchangeIso : functorToInterchange A K ≅
+    K ⋙ (coyoneda ⋙ (whiskeringLeft _ _ _).obj (CostructuredArrow.proj _ _)) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:75]:
```suggestion
    K ⋙ coyoneda ⋙ (whiskeringLeft _ _ _).obj (CostructuredArrow.proj _ _) :=
```

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean [hunk 4]
```diff
@@ -0,0 +1,179 @@
...
+  NatIso.ofComponents (fun _ => Iso.refl _)
+
+/-- (Implementation) One way to express the flipped version of our functor. -/
+@[simps!]
+def flipFunctorToInterchange : (functorToInterchange A K).flip ≅
+    ((CostructuredArrow.proj yoneda A ⋙ yoneda) ⋙ (whiskeringLeft J Cᵒᵖ (Type u)).obj K) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:81]: Is there a particular reason you prefer to associate the composition on the left?

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean (hunk 2 above)
Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean]: Done.

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean (hunk 4 above)
Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:90]: This is because the type of `Presheaf.tautologicalCocone` is `Cocone (CostructuredArrow.proj yoneda P ⋙ yoneda)`.

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean (hunk 3 above)
Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean]: Done.

**Comment by jcommelin** [comment]
bors d=dagurtomas

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean [hunk 5]
```diff
@@ -0,0 +1,190 @@
...
+/-- If `C` is a finitely cocomplete category and `A : Cᵒᵖ ⥤ Type u` is a presheaf that preserves
+finite limites, then `CostructuredArrow yoneda A` is filtered.
+
+One direction of Proposition 3.3.13 of [Kashiwara2006].
+-/
+theorem isFiltered_costructuredArrow_yoneda_of_preservesFiniteLimits
+    [PreservesFiniteLimits A] : IsFiltered (CostructuredArrow yoneda A) := by
+  suffices IsFiltered A.Elementsᵒᵖ from
+    IsFiltered.of_equivalence (CategoryOfElements.costructuredArrowYonedaEquivalence _)
+  suffices IsCofiltered A.Elements from isFiltered_op_of_isCofiltered A.Elements
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:61]:
```suggestion
  suffices IsCofiltered A.Elements from
    IsFiltered.of_equivalence (CategoryOfElements.costructuredArrowYonedaEquivalence _)
```

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean [hunk 6]
```diff
@@ -0,0 +1,190 @@
...
+/-- (Implementation) This is the bifunctor we will apply "filtered colimits commute with finite
+limits" to. -/
+def functorToInterchange : J ⥤ CostructuredArrow yoneda A ⥤ Type u :=
+  K ⋙ coyoneda ⋙ (whiskeringLeft _ _ _).obj (CostructuredArrow.proj _ _)
+
+/-- (Implementation) The definition of `functorToInterchange`. -/
+@[simps!]
+def functorToInterchangeIso : functorToInterchange A K ≅
+    K ⋙ coyoneda ⋙ (whiskeringLeft _ _ _).obj (CostructuredArrow.proj _ _) :=
+  NatIso.ofComponents (fun _ => Iso.refl _)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:84]:
```suggestion
  Iso.refl _
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean:84]: Similarly for the next two isos. Is there a reason to use `NatIso.ofComponents` here?

**Review by dagurtomas — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by dagurtomas** [comment]
Oh, I guess I can just 

bors d+

File: Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean (hunk 6 above)
Comment (TwoFX) [reply Mathlib/CategoryTheory/Limits/Preserves/Presheaf.lean]: There are places where you don't want a natural isomorphism to hold by refl, but I agree that this is not one of them.
